US05859007
E. 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(2-methoxy-phenyl) acetamide
45 mg of Sodium Hydride (60% in oil, 1.12 mmol) is added to a solution of 2-(-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(2-methoxy-phenyl) acetamide, prepared as in Part D, (430 mg. 0.934 mmol) in DMF (10 mL) and the resultant mixture stirred at RT for 0.5 h prior to the addition of 3-Bromomethyl-1-tert-butoxycarbonyl-1H-indazole (291 mg, 0.934 mmol) to the reaction mixture. After stirring 22 h at RT, water (10 mL) is added and the resultant mixture extracted into ethyl acetate (3×10 mL). The combined organics were washed with water (3×10 mL), brine (10 mL), dried (MgSO4), and concentrated in vacuo to afford the crude product which is purified by silica gel flash column chromatography using 3% methanol in methylene chlorideas eluent to give the desired product (260 mg) as a beige solid, which exists as 3:2 mixture of rotamers (major rotamer recorded): 1H NMR (300 MHz, CDCl3) δ8.1 (t, 1H, J=8.0), 7.90 (m, 1H), 7.60-6.90 (m, 15H), 5.05 (m, 1H, J=6.9), 4.60-3.40 (m, 8H), 1.7 (s, 9H), 1.16 (m, 6H).

reactant | Sodium Hydride | 1.12 mmol, 45 mg | [H-].[Na+]
reactant | 2-(-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(2-methoxy-phenyl) acetamide | O=C1CC(N(C2=C(N1CC(=O)N(C1=C(C=CC=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H27N3O4
reactant | 3-Bromomethyl-1-tert-butoxycarbonyl-1H-indazole | 0.934 mmol, 291 mg | BrCC1=NN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C13H15BrN2O2
reactant | water | 10 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydrobenzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(2-methoxy-phenyl) acetamide | 260 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=C(C=CC=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C40H41N5O6
